US07105671B2
A solution of 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid methyl ester (617 mg, 2.04 mmol), methylurea (302 mg, 4.07 mmol), and a solution of magnesium methoxide in methanol (7.4 wt. %, 4.63 mL, 3.06 mmol) was heated at 100° C. for 8 h. After this time, the reaction mixture was concentrated in vacuo, dissolved in ethyl acetate (50 mL), and then filtered through a pad of silica gel. The organics were then concentrated in vacuo to give the crude product. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 80/20 hexanes/ethyl acetate) afforded 1-[2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionyl]-3-methyl-urea as a white solid: EI-HRMS m/e calcd for C15H18Cl2N2O3 (M+) 344.0694, found 344.0699.

reactant | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid methyl ester | 2.04 mmol, 617 mg | COC(C(CC1OCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C14H16Cl2O3
reactant | methylurea | 4.07 mmol, 302 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 3.06 mmol, 4.63 mL | CO | CH4O
product | 1-[2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionyl]-3-methyl-urea | ClC=1C=C(C=CC1Cl)C(C(=O)NC(=O)NC)CC1OCCC1 | C15H18Cl2N2O3
